US08981085B2
Benzyl 3-(tert-butoxycarbonylamino)-3-methylpiperidine-1-carboxylate (1.4 g, 4.0 mmol) and 10% Pd/C (0.21 g, 0.2 mmol) in MeOH (20 mL) were stirred under H2 atmosphere (1 atm) for 1 hour. The catalyst was removed by filtration and washed with methanol. The filtrate was concentrated to give tert-butyl 3-methylpiperidin-3-ylcarbamate (0.62 g, 72% yield) as a solid.

reactant | Benzyl 3-(tert-butoxycarbonylamino)-3-methylpiperidine-1-carboxylate | 4.0 mmol, 1.4 g | C(C)(C)(C)OC(=O)NC1(CN(CCC1)C(=O)OCC1=CC=CC=C1)C | C19H28N2O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.2 mmol, 0.21 g | [Pd] | Pd
product | tert-butyl 3-methylpiperidin-3-ylcarbamate | 0.62 g, 72% yield | CC1(CNCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
